US09061030B2
To a stirring suspension of 4-(3-(4-bromopyridin-2-yl)-1-(2-fluorobenzyl)-1H-1,2,4-triazol-5-yl)oxazole (I-54, 1 eq) and copper(I) oxide (0.2 eq) in ethylene glycol-dioxane (approx. 4:1) in a sealed tube was added ammonium hydroxide (30 eq). The resultant reaction mixture was heated at 100° C. for 12 hr. The reaction was cooled to room temperature and treated with brine and extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate, concentrated and purified using SiO2 chromatography (DCM/CAN/MeOH) to afford 2-(1-(2-fluorobenzyl)-5-(oxazol-4-yl)-1H-1,2,4-triazol-3-yl)pyridin-4-amine in 41.2% yield.

reactant | 4-(3-(4-bromopyridin-2-yl)-1-(2-fluorobenzyl)-1H-1,2,4-triazol-5-yl)oxazole | 1 eq | BrC1=CC(=NC=C1)C1=NN(C(=N1)C=1N=COC1)CC1=C(C=CC=C1)F | C17H11BrFN5O
reactant | ammonium hydroxide | 30 eq | [OH-].[NH4+]
solvent | ethylene glycol dioxane | C(CO)O.O1CCOCC1
solvent | brine | [Cl-].[Na+].O
catalyst | copper(I) oxide | 0.2 eq | [Cu-]=O
product | 2-(1-(2-fluorobenzyl)-5-(oxazol-4-yl)-1H-1,2,4-triazol-3-yl)pyridin-4-amine | 41.2% yield | FC1=C(CN2N=C(N=C2C=2N=COC2)C2=NC=CC(=C2)N)C=CC=C1 | C17H13FN6O
